US05221671
2-Ethoxyethyl p-toluenesulfonic acid
2 g of 2-ethoxyethanol were dissolved in 40 ml of pyridine, to which 5.66 g of p-toluenesulfonyl chloride was added under ice-cooling conditions, followed by raising to room temperature. Ethyl acetate was added, followed by washing with water and a saturated sodium hydrogencarbonate aqueous solution and drying with anhydrous magnesium sulfate. This was filtered and, after removal of the solvent by distillation, the resultant residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:hexane=5:95) to obtain 3.69 g of the captioned compound (yield 56%).

reactant | 2-ethoxyethanol | 2 g | C(C)OCCO | C4H10O2
reactant | p-toluenesulfonyl chloride | 5.66 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 2-Ethoxyethyl p-toluenesulfonic acid | 3.69 g, yield 56% | C(C)OCCC1=C(C=CC(=C1)S(=O)(=O)O)C | C11H16O4S
